US07582626B2
d) (4aR,7aS)-N-{3-[1-(4-Fluoro-benzyl)-4-hydroxy-2-oxo-2,4a,5,6,7,7a-hexahydro-1H-[1]pyrindin-3-yl]-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-7-yl}-methanesulfonamide
(1R,2S)-2-{(4-Fluoro-benzyl)-[2-(7-methanesulfonylamino-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-3-yl)-acetyl]-amino}-cyclopentanecarboxylic acid methyl ester (117 mg, 0.21 mmol) was dissolved in ethanol (10 mL). A 21% w/w solution of sodium ethoxide in ethanol (0.17 mL, 0.46 mmol) was added and the mixture was stirred at 60° C. for 4 h. The reaction was allowed to cool to 25° C. and quenched with 1.0 M aqueous hydrochloric acid solution (10 mL). The mixture was extracted with ethyl acetate (3×20 mL). The organic layers were combined, dried over magnesium sulfate, filtered, and concentrated in vacuo. The crude material was purified by flash column chromatography (Merck silica gel 60, 40-63 μm; 0-5% methanol in dichloromethane) to afford the desired product, (4aR,7aS)-N-{3-[1-(4-fluoro-benzyl)-4-hydroxy-2-oxo-2,4a,5,6,7,7a-hexahydro-1H-[1]pyrindin-3-yl]-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-7-yl}-methanesulfonamide (80 mg, 0.15 mmol, 71%), as a white solid. 1H NMR (400 MHz, DMSO-d6) δ: 1.46-1.61 (4H, m), 1.95-2.12 (2H, m), 3.07 (3H, s), 3.85 (1H, bs), 4.48 (1H, bs), 4.91 (1H, d, J=14.8 Hz), 7.16 (2H, t, J=8.4 Hz), 7.40 (2H, bs), 7.50-7.61 (3H, m), 10.18 (1H, s). LC-MS (ESI) calcd for C23H23FN4O6S2 534.58, found 535.1 [M+H+]. e.e. =98% [HPLC-analysis: Chiralpak AS-RH 4.6×250 mm, 5 micron at 25° C., 0.7 mL/min, 310 nm, t1=14.89 min, t2=22.20 min (major)]. αD=−40.76 (c=0.92, dichloromethane/methanol 1:1). Anal. calcd for C23H23FN4O6S2 0.3H2O 0.3 EtOAc 0.2 Et2O: C, 51.66; H, 4.86; N, 9.64, found C, 51.64; H, 4.90; N, 9.56.

reactant | (1R,2S)-2-{(4-Fluoro-benzyl)-[2-(7-methanesulfonylamino-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-3-yl)-acetyl]-amino}-cyclopentanecarboxylic acid methyl ester | 0.21 mmol, 117 mg | COC(=O)[C@H]1[C@H](CCC1)N(C(CC1=NS(C2=C(N1)C=CC(=C2)NS(=O)(=O)C)(=O)=O)=O)CC2=CC=C(C=C2)F | C24H27FN4O7S2
reactant | sodium ethoxide | [O-]CC.[Na+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | ethanol | 0.46 mmol, 0.17 mL | C(C)O | C2H6O
product | (4aR,7aS)-N-{3-[1-(4-fluoro-benzyl)-4-hydroxy-2-oxo-2,4a,5,6,7,7a-hexahydro-1H-[1]pyrindin-3-yl]-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-7-yl}-methanesulfonamide | 0.15 mmol, 80 mg, 71% | FC1=CC=C(CN2C(C(=C([C@@H]3CCC[C@H]23)O)C2=NS(C3=C(N2)C=CC(=C3)NS(=O)(=O)C)(=O)=O)=O)C=C1 | C23H23FN4O6S2
